US05827881
A! A solution of 43 ml (0.25 mole) of dibutylamine in 770 ml of dichloromethane was added with a 0.91M solution of 280 ml (0.025 mole) of triethyl-aluminium in hexane, at 0° C. under argo, and the resultant reaction mixture was stirred for 30 minutes at room temperature, then dropwise added with 25.8 ml (0.25 mole) of 7-oxabicyclo[4.1.0]heptane, and stirred overnight. A 6M solution of 200 ml (1.2 moles) of sodium hydroxide was added very slowly, and the mixture was stirred for 2 hours at room temperature. The phases were separated, and the organic one was washed with water (2×50 ml), anhydrified over sodium sulfate and evaporated. The resultant crude was distilled under vacuum to provide 43.7 g (yield: 75%) of trans-2-(N,N-dibutylamino)-cyclohexanol (b.p.--105°-107° C./1 mmHg).

reactant | dibutylamine | 0.25 mole, 43 ml | C(CCC)NCCCC | C8H19N
reactant | triethyl-aluminium | 0.025 mole, 280 ml | C(C)[Al](CC)CC
reactant | 7-oxabicyclo[4.1.0]heptane | 0.25 mole, 25.8 ml | C12CCCCC2O1 | C6H10O
reactant | sodium hydroxide | 1.2 moles, 200 ml | [OH-].[Na+]
solvent | dichloromethane | 770 ml | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | trans-2-(N,N-dibutylamino)-cyclohexanol | 43.7 g, yield: 75% | C(CCC)N(CCCC)[C@H]1[C@@H](CCCC1)O | C14H29NO
